US07060721B1
Lithium chloride (180 mg) was suspended in 1,4-dioxane (10 ml), and 4-bromo-1-(2-chloro-4-(1-pentyloxy)benzyl)-2-methyl-1H-imidazole-5-carbaldehyde (707 mg), vinyltributyltin (617 mg) and tetrakis(triphenylphosphine)palladium(0) (102 mg) were added. The mixture was refluxed under heating for 12 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was applied to silica gel column chromatography and eluted with hexane/ethyl acetate=5/1. The objective fraction was concentrated under reduced pressure to give 1-(2-chloro-4-(1-pentyloxy)benzyl)-4-ethenyl-2-methyl-1H-imidazole-5-carbaldehyde(538 mg) as a pale-yellow gum.

reactant | Lithium chloride | 180 mg | [Cl-].[Li+]
reactant | 4-bromo-1-(2-chloro-4-(1-pentyloxy)benzyl)-2-methyl-1H-imidazole-5-carbaldehyde | 707 mg | BrC=1N=C(N(C1C=O)CC1=C(C=C(C=C1)OCCCCC)Cl)C | C17H20BrClN2O2
reactant | vinyltributyltin | 617 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 102 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-chloro-4-(1-pentyloxy)benzyl)-4-ethenyl-2-methyl-1H-imidazole-5-carbaldehyde | 538 mg | ClC1=C(CN2C(=NC(=C2C=O)C=C)C)C=CC(=C1)OCCCCC | C19H23ClN2O2
